US07495007B2
Preparation of intermediate 5-fluoro-1,3-dihydro-indol-2-one
To the solution of 3-fluorophenylacetic acid (1.23 g, 8 mmol) in concentrated H2SO4 (2.0 mL, 40 mmol) at 0° C. was added HNO3 (0.374 mL, 8 mmol) slowly. The resulting reaction mixture was stirred under argon for 2 h at 0° C., and poured into ice-water. The white solid was precipitated, and the aqueous phase was extracted with ethyl acetate. The organic phase was washed with brine, dried with Na2SO4, and concentrated. The crude (5-fluoro-2-nitro-phenyl)-acetic acid was dissolved in acetic acid. To the solution was added iron power (1.79 g, 32 mmol). The reaction mixture was stirred and heated at reflux for 2 h. Then the mixture was concentrated in vacuo. The residue was extracted with ethyl acetate, and The organic layer was separated, washed by aqueous HCl (1N), brine, dried over Na2SO4, concentrated in vacuo to give the desired product (1 g, 82%).

reactant | 3-fluorophenylacetic acid | 8 mmol, 1.23 g | FC=1C=C(C=CC1)CC(=O)O | C8H7FO2
reactant | H2SO4 | 40 mmol, 2.0 mL | OS(=O)(=O)O | H2O4S
reactant | HNO3 | 8 mmol, 0.374 mL | [N+](=O)(O)[O-] | HNO3
product | 5-fluoro-1,3-dihydro-indol-2-one | 1 g, 82% | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
